US06127354
N-Methyl-N-(2-(2-nitrophenyl)ethyl)carbamic acid tert-butyl ester (924 mg, 3.3 mmol) was dissolved in ethanol (60 ml). 10% palladium on carbon (200 mg) was added. The mixture was hydrogenated at room temperature at 1 atmosphere for 16 h. The catalyst was filtered off through a plug of celite. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (60 g), using ethyl acetate/heptane (1:2) as eluent, to give 723 mg of N-(2-(2-aminophenyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | N-Methyl-N-(2-(2-nitrophenyl)ethyl)carbamic acid tert-butyl ester | 3.3 mmol, 924 mg | C(C)(C)(C)OC(N(CCC1=C(C=CC=C1)[N+](=O)[O-])C)=O | C14H20N2O4
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | N-(2-(2-aminophenyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 723 mg | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)N)=O | C14H22N2O2
